US09315542B2
2-(3,5-Dimethylphenoxy)acetic acid (2)
Referring to FIG. 37, to a solution of ethyl 2-(3,5-dimethylphenoxy)acetate (19 g, obtained from the previous step) in methanol (150 mL) was added NaOH solution (6 N, 50 mL). The reaction mixture was stirred at room temperature for 4 h and then adjusted to pH=1˜2 with 2 N HCl solution. The resulting mixture was extracted with ethyl acetate (150 mL×2). The combined extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure to give a solid, which was washed with ethyl acetate/hexane (1:15, 40 mL) to give product (14 g, 95% yield over two steps); 1H NMR (CDCl3, 300 MHz): δ 6.69 (s, 1H), 6.58 (s, 2H), 4.68 (s, 2H). 2.31 (s, 6H).

reactant | ethyl 2-(3,5-dimethylphenoxy)acetate | CC=1C=C(OCC(=O)OCC)C=C(C1)C | C12H16O3
reactant | NaOH | 6 N, 50 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
product | 2-(3,5-Dimethylphenoxy)acetic acid | 95% yield | CC=1C=C(OCC(=O)O)C=C(C1)C | C10H12O3
